*|DSPF	1.5
*|DESIGN	nmos_cm_25x3x1_111_3
*|DATE	"Wed Jun 19 2025"
*|VENDOR	"Mentor Graphics Corporation"
*|PROGRAM	"Calibre xACT"
*|VERSION	"v2020.4_34.17"
*|DIVIDER	|
*|DELIMITER	:
*|BUSBIT	[]
* Corner Name: 12lp_11M_3Mx_4Cx_2Kx_2Gx_LB_nominal_detailed_25
* Nominal Temperature: 25C
* Circuit Temperature: 25C
*

* Integrated TICER reduction is not enabled.
* SHORT DELAY THRESHOLD: 2e-14
* Fill Mode: NG
* PEX REDUCE CC ABSOLUTE : disabled
* PEX REDUCE CC RATIO : disabled
* Delta transform mode : 344834

.subckt nmos_cm_25x3x1_111_3 d0 d1 s

* Net:s ----------------


R1 s s:12 23.968
R2 s s:42 1.008
R3 s s:5 7.644
R4 s s:7 5.46
R5 s:7 s:76 1.344
R6 s:7 MN1@1:s 14
R7 s:7 s:75 2.184
R8 s:7 MN1@1:s 14
R9 s:7 s:13 5.46
R10 s:7 MN1@1:s 14
R11 s:7 s:9 13.104
R12 s:7 MN1@1:s 14
R13 s:9 s:85 1.344
R14 s:9 MN0@2:s 14
R15 s:9 s:84 2.184
R16 s:9 MN0@2:s 14
R17 s:9 s:11 13.104
R18 s:9 MN0@2:s 14
R19 s:11 s:94 1.344
R20 s:11 MN1@2:s 14
R21 s:11 s:93 2.184
R22 s:11 MN1@2:s 14
R23 s:11 s:41 3.192
R24 s:11 MN1@2:s 14
R25 s:93 s:92 3.528
R26 s:93 MN1@2:s 14
R27 s:92 s:91 3.528
R28 s:92 MN1@2:s 14
R29 s:91 s:90 3.528
R30 s:91 MN1@2:s 14
R31 s:90 s:89 3.528
R32 s:90 MN1@2:s 14
R33 s:89 s:36 2.688
R34 s:89 MN1@2:s 14
R35 s:94 s:95 3.528
R36 s:94 MN1@2:s 14
R37 s:95 s:96 3.528
R38 s:95 MN1@2:s 14
R39 s:96 s:97 3.528
R40 s:96 MN1@2:s 14
R41 s:97 s:37 2.688
R42 s:97 MN1@2:s 14
R43 s:84 s:83 3.528
R44 s:84 MN0@2:s 14
R45 s:83 s:82 3.528
R46 s:83 MN0@2:s 14
R47 s:82 s:81 3.528
R48 s:82 MN0@2:s 14
R49 s:81 s:80 3.528
R50 s:81 MN0@2:s 14
R51 s:80 s:32 2.688
R52 s:80 MN0@2:s 14
R53 s:85 s:86 3.528
R54 s:85 MN0@2:s 14
R55 s:86 s:87 3.528
R56 s:86 MN0@2:s 14
R57 s:87 s:88 3.528
R58 s:87 MN0@2:s 14
R59 s:88 s:33 2.688
R60 s:88 MN0@2:s 14
R61 s:13 s:12 23.968
R62 s:13 s:42 1.008
R63 s:13 s:5 7.644
R64 s:5 s:67 1.344
R65 s:5 MN0@1:s 14
R66 s:5 s:66 2.184
R67 s:5 MN0@1:s 14
R68 s:5 s:3 13.104
R69 s:5 MN0@1:s 14
R70 s:3 s:58 1.344
R71 s:3 MN1@0:s 14
R72 s:3 s:57 2.184
R73 s:3 MN1@0:s 14
R74 s:3 s:1 13.104
R75 s:3 MN1@0:s 14
R76 s:1 s:49 1.344
R77 s:1 MN0@0:s 14
R78 s:1 s:48 2.184
R79 s:1 MN0@0:s 14
R80 s:1 s:40 1.008
R81 s:1 MN0@0:s 14
R82 s:48 s:47 3.528
R83 s:48 MN0@0:s 14
R84 s:47 s:46 3.528
R85 s:47 MN0@0:s 14
R86 s:46 s:45 3.528
R87 s:46 MN0@0:s 14
R88 s:45 s:44 3.528
R89 s:45 MN0@0:s 14
R90 s:44 s:16 2.688
R91 s:44 MN0@0:s 14
R92 s:49 s:50 3.528
R93 s:49 MN0@0:s 14
R94 s:50 s:51 3.528
R95 s:50 MN0@0:s 14
R96 s:51 s:52 3.528
R97 s:51 MN0@0:s 14
R98 s:52 s:17 2.688
R99 s:52 MN0@0:s 14
R100 s:57 s:56 3.528
R101 s:57 MN1@0:s 14
R102 s:56 s:55 3.528
R103 s:56 MN1@0:s 14
R104 s:55 s:54 3.528
R105 s:55 MN1@0:s 14
R106 s:54 s:53 3.528
R107 s:54 MN1@0:s 14
R108 s:53 s:20 2.688
R109 s:53 MN1@0:s 14
R110 s:58 s:59 3.528
R111 s:58 MN1@0:s 14
R112 s:59 s:60 3.528
R113 s:59 MN1@0:s 14
R114 s:60 s:61 3.528
R115 s:60 MN1@0:s 14
R116 s:61 s:21 2.688
R117 s:61 MN1@0:s 14
R118 s:66 s:65 3.528
R119 s:66 MN0@1:s 14
R120 s:65 s:64 3.528
R121 s:65 MN0@1:s 14
R122 s:64 s:63 3.528
R123 s:64 MN0@1:s 14
R124 s:63 s:62 3.528
R125 s:63 MN0@1:s 14
R126 s:62 s:24 2.688
R127 s:62 MN0@1:s 14
R128 s:67 s:68 3.528
R129 s:67 MN0@1:s 14
R130 s:68 s:69 3.528
R131 s:68 MN0@1:s 14
R132 s:69 s:70 3.528
R133 s:69 MN0@1:s 14
R134 s:70 s:25 2.688
R135 s:70 MN0@1:s 14
R136 s:12 s:43 1.008
R137 s:12 s:4 6.552
R138 s:12 s:6 6.552
R139 s:6 s:27 1.12
R140 s:6 MN1@1:b 14
R141 s:6 s:26 1.12
R142 s:6 MN1@1:b 14
R143 s:6 s:8 13.104
R144 s:6 MN1@1:b 14
R145 s:8 s:31 1.12
R146 s:8 MN0@2:b 14
R147 s:8 s:30 1.12
R148 s:8 MN0@2:b 14
R149 s:8 s:10 13.104
R150 s:8 MN0@2:b 14
R151 s:10 s:35 1.12
R152 s:10 MN1@2:b 14
R153 s:10 s:34 1.12
R154 s:10 MN1@2:b 14
R155 s:10 s:39 2.1
R156 s:10 MN1@2:b 14
R157 s:4 s:23 1.12
R158 s:4 MN0@1:b 14
R159 s:4 s:22 1.12
R160 s:4 MN0@1:b 14
R161 s:4 s:2 13.104
R162 s:4 MN0@1:b 14
R163 s:2 s:19 1.12
R164 s:2 MN1@0:b 14
R165 s:2 s:18 1.12
R166 s:2 MN1@0:b 14
R167 s:2 s:0 13.104
R168 s:2 MN1@0:b 14
R169 s:0 s:15 1.12
R170 s:0 MN0@0:b 14
R171 s:0 s:14 1.12
R172 s:0 MN0@0:b 14
R173 s:0 s:38 2.1
R174 s:0 MN0@0:b 14
R175 s:75 s:74 3.528
R176 s:75 MN1@1:s 14
R177 s:74 s:73 3.528
R178 s:74 MN1@1:s 14
R179 s:73 s:72 3.528
R180 s:73 MN1@1:s 14
R181 s:72 s:71 3.528
R182 s:72 MN1@1:s 14
R183 s:71 s:28 2.688
R184 s:71 MN1@1:s 14
R185 s:76 s:77 3.528
R186 s:76 MN1@1:s 14
R187 s:77 s:78 3.528
R188 s:77 MN1@1:s 14
R189 s:78 s:79 3.528
R190 s:78 MN1@1:s 14
R191 s:79 s:29 2.688
R192 s:79 MN1@1:s 14
R193 MN1@2:s MN2@0:s 0.01
C1 s:7 0 1.0080000000000025e-14
C2 s:7 0 1.6379999999999977e-14
C3 s:7 0 4.0950000000000005e-14
C4 s:7 0 9.828e-14
C5 s:9 0 1.0080000000000025e-14
C6 s:9 0 1.6379999999999977e-14
C7 s:9 0 9.828e-14
C8 s:11 0 1.0080000000000025e-14
C9 s:11 0 1.6379999999999977e-14
C10 s:11 0 2.394e-14
C11 s:93 0 2.6460000000000002e-14
C12 s:92 0 2.6460000000000002e-14
C13 s:91 0 2.6460000000000002e-14
C14 s:90 0 2.6460000000000002e-14
C15 s:89 0 2.016e-14
C16 s:94 0 2.6460000000000002e-14
C17 s:95 0 2.6460000000000002e-14
C18 s:96 0 2.6460000000000002e-14
C19 s:97 0 2.016e-14
C20 s:84 0 2.6460000000000002e-14
C21 s:83 0 2.6460000000000002e-14
C22 s:82 0 2.6460000000000002e-14
C23 s:81 0 2.6460000000000002e-14
C24 s:80 0 2.016e-14
C25 s:85 0 2.6460000000000002e-14
C26 s:86 0 2.6460000000000002e-14
C27 s:87 0 2.6460000000000002e-14
C28 s:88 0 2.016e-14
C29 s:13 0 1.7976e-13
C30 s:13 0 7.56e-15
C31 s:13 0 5.733000000000001e-14
C32 s:5 0 1.0080000000000025e-14
C33 s:5 0 1.6379999999999977e-14
C34 s:5 0 9.828e-14
C35 s:3 0 1.0080000000000025e-14
C36 s:3 0 1.6379999999999977e-14
C37 s:3 0 9.828e-14
C38 s:1 0 1.0080000000000025e-14
C39 s:1 0 1.6379999999999977e-14
C40 s:1 0 7.56e-15
C41 s:48 0 2.6460000000000002e-14
C42 s:47 0 2.6460000000000002e-14
C43 s:46 0 2.6460000000000002e-14
C44 s:45 0 2.6460000000000002e-14
C45 s:44 0 2.016e-14
C46 s:49 0 2.6460000000000002e-14
C47 s:50 0 2.6460000000000002e-14
C48 s:51 0 2.6460000000000002e-14
C49 s:52 0 2.016e-14
C50 s:57 0 2.6460000000000002e-14
C51 s:56 0 2.6460000000000002e-14
C52 s:55 0 2.6460000000000002e-14
C53 s:54 0 2.6460000000000002e-14
C54 s:53 0 2.016e-14
C55 s:58 0 2.6460000000000002e-14
C56 s:59 0 2.6460000000000002e-14
C57 s:60 0 2.6460000000000002e-14
C58 s:61 0 2.016e-14
C59 s:66 0 2.6460000000000002e-14
C60 s:65 0 2.6460000000000002e-14
C61 s:64 0 2.6460000000000002e-14
C62 s:63 0 2.6460000000000002e-14
C63 s:62 0 2.016e-14
C64 s:67 0 2.6460000000000002e-14
C65 s:68 0 2.6460000000000002e-14
C66 s:69 0 2.6460000000000002e-14
C67 s:70 0 2.016e-14
C68 s:12 0 7.56e-15
C69 s:12 0 4.914e-14
C70 s:12 0 4.914e-14
C71 s:6 0 8.400000000000001e-15
C72 s:6 0 8.400000000000001e-15
C73 s:6 0 9.828e-14
C74 s:8 0 8.400000000000001e-15
C75 s:8 0 8.400000000000001e-15
C76 s:8 0 9.828e-14
C77 s:10 0 8.400000000000001e-15
C78 s:10 0 8.400000000000001e-15
C79 s:10 0 1.5750000000000002e-14
C80 s:4 0 8.400000000000001e-15
C81 s:4 0 8.400000000000001e-15
C82 s:4 0 9.828e-14
C83 s:2 0 8.400000000000001e-15
C84 s:2 0 8.400000000000001e-15
C85 s:2 0 9.828e-14
C86 s:0 0 8.400000000000001e-15
C87 s:0 0 8.400000000000001e-15
C88 s:0 0 1.5750000000000002e-14
C89 s:75 0 2.6460000000000002e-14
C90 s:74 0 2.6460000000000002e-14
C91 s:73 0 2.6460000000000002e-14
C92 s:72 0 2.6460000000000002e-14
C93 s:71 0 2.016e-14
C94 s:76 0 2.6460000000000002e-14
C95 s:77 0 2.6460000000000002e-14
C96 s:78 0 2.6460000000000002e-14
C97 s:79 0 2.016e-14


* Net:d1 ----------------


R194 d1 d1:1 5.46
R195 d1 d1:3 2.184
R196 d1:3 d1:13 1.008
R197 d1:3 d1:12 1.008
R198 d1:3 d1:2 18.564
R199 d1:2 d1:34 3.528
R200 d1:2 MN0@2:d 14
R201 d1:2 d1:33 3.528
R202 d1:2 MN0@2:d 14
R203 d1:2 d1:11 14.112
R204 d1:2 MN0@2:d 14
R205 d1:33 d1:32 3.528
R206 d1:33 MN0@2:d 14
R207 d1:32 d1:31 3.528
R208 d1:32 MN0@2:d 14
R209 d1:31 d1:30 3.528
R210 d1:31 MN0@2:d 14
R211 d1:30 d1:8 2.688
R212 d1:30 MN0@2:d 14
R213 d1:34 d1:35 3.528
R214 d1:34 MN0@2:d 14
R215 d1:35 d1:36 3.528
R216 d1:35 MN0@2:d 14
R217 d1:36 d1:37 3.528
R218 d1:36 MN0@2:d 14
R219 d1:37 d1:9 2.688
R220 d1:37 MN0@2:d 14
R221 d1:1 d1:26 3.528
R222 d1:1 MN0@1:d 14
R223 d1:1 d1:25 3.528
R224 d1:1 MN0@1:d 14
R225 d1:1 d1:0 26.208
R226 d1:1 MN0@1:d 14
R227 d1:0 d1:18 3.528
R228 d1:0 MN0@0:d 14
R229 d1:0 d1:17 3.528
R230 d1:0 MN0@0:d 14
R231 d1:0 d1:10 3.192
R232 d1:0 MN0@0:d 14
R233 d1:17 d1:16 3.528
R234 d1:17 MN0@0:d 14
R235 d1:16 d1:15 3.528
R236 d1:16 MN0@0:d 14
R237 d1:15 d1:14 3.528
R238 d1:15 MN0@0:d 14
R239 d1:14 d1:4 2.688
R240 d1:14 MN0@0:d 14
R241 d1:18 d1:19 3.528
R242 d1:18 MN0@0:d 14
R243 d1:19 d1:20 3.528
R244 d1:19 MN0@0:d 14
R245 d1:20 d1:21 3.528
R246 d1:20 MN0@0:d 14
R247 d1:21 d1:5 2.688
R248 d1:21 MN0@0:d 14
R249 d1:25 d1:24 3.528
R250 d1:25 MN0@1:d 14
R251 d1:24 d1:23 3.528
R252 d1:24 MN0@1:d 14
R253 d1:23 d1:22 3.528
R254 d1:23 MN0@1:d 14
R255 d1:22 d1:6 2.688
R256 d1:22 MN0@1:d 14
R257 d1:26 d1:27 3.528
R258 d1:26 MN0@1:d 14
R259 d1:27 d1:28 3.528
R260 d1:27 MN0@1:d 14
R261 d1:28 d1:29 3.528
R262 d1:28 MN0@1:d 14
R263 d1:29 d1:7 2.688
R264 d1:29 MN0@1:d 14
C98 d1:3 0 7.56e-15
C99 d1:3 0 7.56e-15
C100 d1:3 0 1.3923e-13
C101 d1:2 0 2.6460000000000002e-14
C102 d1:2 0 2.6460000000000002e-14
C103 d1:2 0 1.0584000000000001e-13
C104 d1:33 0 2.6460000000000002e-14
C105 d1:32 0 2.6460000000000002e-14
C106 d1:31 0 2.6460000000000002e-14
C107 d1:30 0 2.016e-14
C108 d1:34 0 2.6460000000000002e-14
C109 d1:35 0 2.6460000000000002e-14
C110 d1:36 0 2.6460000000000002e-14
C111 d1:37 0 2.016e-14
C112 d1:1 0 2.6460000000000002e-14
C113 d1:1 0 2.6460000000000002e-14
C114 d1:1 0 1.9656e-13
C115 d1:0 0 2.6460000000000002e-14
C116 d1:0 0 2.6460000000000002e-14
C117 d1:0 0 2.394e-14
C118 d1:17 0 2.6460000000000002e-14
C119 d1:16 0 2.6460000000000002e-14
C120 d1:15 0 2.6460000000000002e-14
C121 d1:14 0 2.016e-14
C122 d1:18 0 2.6460000000000002e-14
C123 d1:19 0 2.6460000000000002e-14
C124 d1:20 0 2.6460000000000002e-14
C125 d1:21 0 2.016e-14
C126 d1:25 0 2.6460000000000002e-14
C127 d1:24 0 2.6460000000000002e-14
C128 d1:23 0 2.6460000000000002e-14
C129 d1:22 0 2.016e-14
C130 d1:26 0 2.6460000000000002e-14
C131 d1:27 0 2.6460000000000002e-14
C132 d1:28 0 2.6460000000000002e-14
C133 d1:29 0 2.016e-14


* Net:d0 ----------------


R265 d0 d0:10 2.184
R266 d0 d0:4 7.644
R267 d0:4 d0:48 2.184
R268 d0:4 MN1@1:d 14
R269 d0:4 d0:47 1.344
R270 d0:4 MN1@1:d 14
R271 d0:4 d0:7 26.208
R272 d0:4 MN1@1:d 14
R273 d0:7 d0:57 2.184
R274 d0:7 MN1@2:d 14
R275 d0:7 d0:56 1.344
R276 d0:7 MN1@2:d 14
R277 d0:7 d0:32 1.008
R278 d0:7 MN1@2:d 14
R279 d0:56 d0:55 3.528
R280 d0:56 MN1@2:d 14
R281 d0:55 d0:54 3.528
R282 d0:55 MN1@2:d 14
R283 d0:54 d0:53 3.528
R284 d0:54 MN1@2:d 14
R285 d0:53 d0:25 2.688
R286 d0:53 MN1@2:d 14
R287 d0:57 d0:58 3.528
R288 d0:57 MN1@2:d 14
R289 d0:58 d0:59 3.528
R290 d0:58 MN1@2:d 14
R291 d0:59 d0:60 3.528
R292 d0:59 MN1@2:d 14
R293 d0:60 d0:61 3.528
R294 d0:60 MN1@2:d 14
R295 d0:61 d0:26 2.688
R296 d0:61 MN1@2:d 14
R297 d0:47 d0:46 3.528
R298 d0:47 MN1@1:d 14
R299 d0:46 d0:45 3.528
R300 d0:46 MN1@1:d 14
R301 d0:45 d0:44 3.528
R302 d0:45 MN1@1:d 14
R303 d0:44 d0:19 2.688
R304 d0:44 MN1@1:d 14
R305 d0:48 d0:49 3.528
R306 d0:48 MN1@1:d 14
R307 d0:49 d0:50 3.528
R308 d0:49 MN1@1:d 14
R309 d0:50 d0:51 3.528
R310 d0:50 MN1@1:d 14
R311 d0:51 d0:52 3.528
R312 d0:51 MN1@1:d 14
R313 d0:52 d0:20 2.688
R314 d0:52 MN1@1:d 14
R315 d0:10 d0:9 21.672
R316 d0:10 d0:33 1.008
R317 d0:10 d0:1 16.38
R318 d0:1 d0:39 2.184
R319 d0:1 MN1@0:d 14
R320 d0:1 d0:38 1.344
R321 d0:1 MN1@0:d 14
R322 d0:1 d0:31 16.296
R323 d0:1 MN1@0:d 14
R324 d0:38 d0:37 3.528
R325 d0:38 MN1@0:d 14
R326 d0:37 d0:36 3.528
R327 d0:37 MN1@0:d 14
R328 d0:36 d0:35 3.528
R329 d0:36 MN1@0:d 14
R330 d0:35 d0:13 2.688
R331 d0:35 MN1@0:d 14
R332 d0:39 d0:40 3.528
R333 d0:39 MN1@0:d 14
R334 d0:40 d0:41 3.528
R335 d0:40 MN1@0:d 14
R336 d0:41 d0:42 3.528
R337 d0:41 MN1@0:d 14
R338 d0:42 d0:43 3.528
R339 d0:42 MN1@0:d 14
R340 d0:43 d0:14 2.688
R341 d0:43 MN1@0:d 14
R342 d0:9 d0:34 1.008
R343 d0:9 d0:3 4.368
R344 d0:9 d0:5 8.736
R345 d0:5 d0:22 1.092
R346 d0:5 MN0@0:g 342
R347 d0:5 MN1@0:g 342
R348 d0:5 MN0@1:g 342
R349 d0:5 MN1@1:g 342
R350 d0:5 MN0@2:g 342
R351 d0:5 MN1@2:g 342
R352 d0:5 d0:21 1.148
R353 d0:5 MN0@0:g 342
R354 d0:5 MN1@0:g 342
R355 d0:5 MN0@1:g 342
R356 d0:5 MN1@1:g 342
R357 d0:5 MN0@2:g 342
R358 d0:5 MN1@2:g 342
R359 d0:5 d0:6 13.104
R360 d0:5 MN0@0:g 342
R361 d0:5 MN1@0:g 342
R362 d0:5 MN0@1:g 342
R363 d0:5 MN1@1:g 342
R364 d0:5 MN0@2:g 342
R365 d0:5 MN1@2:g 342
R366 d0:6 d0:24 1.092
R367 d0:6 MN0@0:g 342
R368 d0:6 MN1@0:g 342
R369 d0:6 MN0@1:g 342
R370 d0:6 MN1@1:g 342
R371 d0:6 MN0@2:g 342
R372 d0:6 MN1@2:g 342
R373 d0:6 d0:23 1.148
R374 d0:6 MN0@0:g 342
R375 d0:6 MN1@0:g 342
R376 d0:6 MN0@1:g 342
R377 d0:6 MN1@1:g 342
R378 d0:6 MN0@2:g 342
R379 d0:6 MN1@2:g 342
R380 d0:6 d0:8 13.104
R381 d0:6 MN0@0:g 342
R382 d0:6 MN1@0:g 342
R383 d0:6 MN0@1:g 342
R384 d0:6 MN1@1:g 342
R385 d0:6 MN0@2:g 342
R386 d0:6 MN1@2:g 342
R387 d0:8 d0:28 1.092
R388 d0:8 MN0@0:g 342
R389 d0:8 MN1@0:g 342
R390 d0:8 MN0@1:g 342
R391 d0:8 MN1@1:g 342
R392 d0:8 MN0@2:g 342
R393 d0:8 MN1@2:g 342
R394 d0:8 d0:27 1.148
R395 d0:8 MN0@0:g 342
R396 d0:8 MN1@0:g 342
R397 d0:8 MN0@1:g 342
R398 d0:8 MN1@1:g 342
R399 d0:8 MN0@2:g 342
R400 d0:8 MN1@2:g 342
R401 d0:8 d0:30 2.1
R402 d0:8 MN0@0:g 342
R403 d0:8 MN1@0:g 342
R404 d0:8 MN0@1:g 342
R405 d0:8 MN1@1:g 342
R406 d0:8 MN0@2:g 342
R407 d0:8 MN1@2:g 342
R408 d0:3 d0:18 1.092
R409 d0:3 MN0@0:g 342
R410 d0:3 MN1@0:g 342
R411 d0:3 MN0@1:g 342
R412 d0:3 MN1@1:g 342
R413 d0:3 MN0@2:g 342
R414 d0:3 MN1@2:g 342
R415 d0:3 d0:17 1.148
R416 d0:3 MN0@0:g 342
R417 d0:3 MN1@0:g 342
R418 d0:3 MN0@1:g 342
R419 d0:3 MN1@1:g 342
R420 d0:3 MN0@2:g 342
R421 d0:3 MN1@2:g 342
R422 d0:3 d0:2 13.104
R423 d0:3 MN0@0:g 342
R424 d0:3 MN1@0:g 342
R425 d0:3 MN0@1:g 342
R426 d0:3 MN1@1:g 342
R427 d0:3 MN0@2:g 342
R428 d0:3 MN1@2:g 342
R429 d0:2 d0:16 1.092
R430 d0:2 MN0@0:g 342
R431 d0:2 MN1@0:g 342
R432 d0:2 MN0@1:g 342
R433 d0:2 MN1@1:g 342
R434 d0:2 MN0@2:g 342
R435 d0:2 MN1@2:g 342
R436 d0:2 d0:15 1.148
R437 d0:2 MN0@0:g 342
R438 d0:2 MN1@0:g 342
R439 d0:2 MN0@1:g 342
R440 d0:2 MN1@1:g 342
R441 d0:2 MN0@2:g 342
R442 d0:2 MN1@2:g 342
R443 d0:2 d0:0 13.104
R444 d0:2 MN0@0:g 342
R445 d0:2 MN1@0:g 342
R446 d0:2 MN0@1:g 342
R447 d0:2 MN1@1:g 342
R448 d0:2 MN0@2:g 342
R449 d0:2 MN1@2:g 342
R450 d0:0 d0:12 1.092
R451 d0:0 MN0@0:g 342
R452 d0:0 MN1@0:g 342
R453 d0:0 MN0@1:g 342
R454 d0:0 MN1@1:g 342
R455 d0:0 MN0@2:g 342
R456 d0:0 MN1@2:g 342
R457 d0:0 d0:11 1.148
R458 d0:0 MN0@0:g 342
R459 d0:0 MN1@0:g 342
R460 d0:0 MN0@1:g 342
R461 d0:0 MN1@1:g 342
R462 d0:0 MN0@2:g 342
R463 d0:0 MN1@2:g 342
R464 d0:0 d0:29 2.1
R465 d0:0 MN0@0:g 342
R466 d0:0 MN1@0:g 342
R467 d0:0 MN0@1:g 342
R468 d0:0 MN1@1:g 342
R469 d0:0 MN0@2:g 342
R470 d0:0 MN1@2:g 342
R471 MN1@2:d MN2@0:d 0.01
C134 d0:4 0 1.6380000000000002e-14
C135 d0:4 0 1.008e-14
C136 d0:4 0 1.9656e-13
C137 d0:7 0 1.6380000000000002e-14
C138 d0:7 0 1.008e-14
C139 d0:7 0 7.56e-15
C140 d0:56 0 2.6460000000000002e-14
C141 d0:55 0 2.6460000000000002e-14
C142 d0:54 0 2.6460000000000002e-14
C143 d0:53 0 2.016e-14
C144 d0:57 0 2.6460000000000002e-14
C145 d0:58 0 2.6460000000000002e-14
C146 d0:59 0 2.6460000000000002e-14
C147 d0:60 0 2.6460000000000002e-14
C148 d0:61 0 2.016e-14
C149 d0:47 0 2.6460000000000002e-14
C150 d0:46 0 2.6460000000000002e-14
C151 d0:45 0 2.6460000000000002e-14
C152 d0:44 0 2.016e-14
C153 d0:48 0 2.6460000000000002e-14
C154 d0:49 0 2.6460000000000002e-14
C155 d0:50 0 2.6460000000000002e-14
C156 d0:51 0 2.6460000000000002e-14
C157 d0:52 0 2.016e-14
C158 d0:10 0 1.6254e-13
C159 d0:10 0 7.56e-15
C160 d0:10 0 1.2285e-13
C161 d0:1 0 1.6380000000000002e-14
C162 d0:1 0 1.008e-14
C163 d0:1 0 1.2222e-13
C164 d0:38 0 2.6460000000000002e-14
C165 d0:37 0 2.6460000000000002e-14
C166 d0:36 0 2.6460000000000002e-14
C167 d0:35 0 2.016e-14
C168 d0:39 0 2.6460000000000002e-14
C169 d0:40 0 2.6460000000000002e-14
C170 d0:41 0 2.6460000000000002e-14
C171 d0:42 0 2.6460000000000002e-14
C172 d0:43 0 2.016e-14
C173 d0:9 0 7.56e-15
C174 d0:9 0 3.2760000000000004e-14
C175 d0:9 0 6.552000000000001e-14
C176 d0:5 0 8.190000000000001e-15
C177 d0:5 0 8.61e-15
C178 d0:5 0 9.828e-14
C179 d0:6 0 8.190000000000001e-15
C180 d0:6 0 8.61e-15
C181 d0:6 0 9.828e-14
C182 d0:8 0 8.190000000000001e-15
C183 d0:8 0 8.61e-15
C184 d0:8 0 1.5750000000000002e-14
C185 d0:3 0 8.190000000000001e-15
C186 d0:3 0 8.61e-15
C187 d0:3 0 9.828e-14
C188 d0:2 0 8.190000000000001e-15
C189 d0:2 0 8.61e-15
C190 d0:2 0 9.828e-14
C191 d0:0 0 8.190000000000001e-15
C192 d0:0 0 8.61e-15
C193 d0:0 0 1.5750000000000002e-14


xMN0@0 MN0@0:d MN0@0:g MN0@0:s MN0@0:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@0 MN1@0:d MN1@0:g MN1@0:s MN1@0:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@1 MN0@1:d MN0@1:g MN0@1:s MN0@1:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@1 MN1@1:d MN1@1:g MN1@1:s MN1@1:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@2 MN0@2:d MN0@2:g MN0@2:s MN0@2:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@2 MN1@2:d MN1@2:g MN1@2:s MN1@2:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1

.end